Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
shortness of breath 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with non-ischemic cardiomyopathy (EF 40-45%), refractory 
multiple myeloma (on daratumab/velcade/pomalyst, last ___, 
CKD3, hospitalized ___ for sepsis due to GNR UTI c/b 
demand NSTEMI and acute decompensated HF, hospitalized 
___ for chest pain and HF (cath clean), who presents 
as intubated transfer from ___.  

Per report from EMS and per family, she was feeling well this 
morning, and then started to complain of some shortness of 
breath and difficulty breathing. When EMS found her, she became 
less responsive. An LMA was placed in the field and she was 
brought to ___, where she was intubated with 6.5cm ETT. CXR 
was suggestive of PNA vs. CHF exacerbation. EKG found old LBBB 
but no acute findings, and troponins were negative x2. CT head 
was limited by motion but found no acute process. She was given 
80 of Lasix and at the time of transfer had put out 1400 in 
urine. She was also given vancomycin, cefepime, and 
levofloxacin. Stat echo was performed which found preserved EF 
and moderate MR. ___ was consulted, and patient was also 
discussed with patient's primary cardiologist, and both 
recommended transfer for tertiary care. 

Of note, patient became transiently hypotensive to ___ when 
sedated with propofol, and was switched to fentanyl/midazolam.
 
In the ED, initial vitals:  64 102/41 17 95% intubated 
- Labs were notable for:  H/H 8.8/27.2 (baseline 9.2), Cr 2.5 
(baseline 1.61), VBG 7.34/36, lactate 1.2, lipase 36. Serum tox 
positive for benzos
- Notably at ___, trop was neg x 2, BNP was 13K 
- Flu PCR negative
- Imaging:  
-----CXR showed hazy opacification of bilateral mid and lower 
lungs may represent layering pleural effusions or airspace 
consolidation 
--___ US showed no DVT, right femoral pseudoaneurysm partially 
thrombosed
- Patient was given:  fentanyl and midazolam infusions
  
On arrival to the FICU, patient is intubated and sedated on 
fentanyl/midazolam.

 
Past Medical History:
Multiple myeloma -- Stage IIIB IgG Lambda. Disease progression 
despite advanced therapies. Started ___ on C3D1 
daratumumab/velcade with pomalyst.
Complications:
- Chronic kidney disease, stage III (moderate) 
- Left hydronephrosis
- Lymphadenopathy with secondary ___ edema
- Anemia
- Neuropathy

Cardiac history:
- Non-ischemic cardiomyopathy (chemo vs. idiopathic) -- EF 
40-45%, inferior/septal hypokinesis, cath clean
- NSTEMI ___, cath clean
- LBBB (left bundle branch block) 
- Sinus bradycardia 
- Hyperlipidemia 
- Essential hypertension, benign 

Hypothyroidism 
Sensorineural hearing loss 
Osteoporosis 
Insomnia due to medical condition 
Dysuria 
Urinary tract infection 
Chest pain 
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
==========================
VITALS: Tmax 98.6 HR 63 BP 117/46 (MAP 59) RR 15 SpO2 98 
I/O: reviewed in Metavision
VENT: reviewed at bedside
GENERAL: intubated, sedated, unresponsive
HEENT: AT/NC  
NECK: JVP not elevated
CARDIAC: RRR, normal S1/S2, ___ holosystolic murmur best heard 
at the apex
LUNG: mechanical breath sounds bilaterally, no wheezes or 
crackles
ABDOMEN: soft, non-distended, +BS, no HSM.
EXTREMITIES: Warm. 1+ edema at ankles.  
PULSES: 2+ femoral pulses bilaterally. No femoral hematoma or 
bruit. 2+ DP pulse on left, non-palpable on right.
NEURO: sedated, no response to voice or painful stimulus. 
Intermittent spontaneous movements of feet.

DISCHARGE PHYSICAL EXAM:
============================
 VS: T 98.7, BP 95-148/50-80, HR 63 (52-77), RR 18, 99% on RA
I/Os: ___ 
Weight: 61.4<-61.5<-60.6<-59.2<-59.2<-61.8 kg
Last known dry weight: 62.5 kg
GENERAL: NAD, well-appearing woman, appropriately interactive 
and pleasant. AOx3.
HEENT: NC/AT. MM slightly dry. OP clear.
NECK: Supple. JVP 1cm slightly above clavicle while sitting 
upright in chair, slight augmention w/abdominal pressure.
CARDIAC: RRR. S1, S2. II/VI holosystolic murmur at apex, no rubs 
or gallops.
LUNGS: Respiration is unlabored with no accessory muscle use. 
Trace crackles at b/l base (resolved as of ___.
ABDOMEN: NABS. Soft, non-tender, non-distended. No CVA 
tenderness. 
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis. 1+ 
edema in left lower leg up to knee (vs trace to ankle on ___, 
trace on right.
SKIN: No significant skin lesions or rashes. Port dressing in 
place, C/D/I.
PULSES: Distal pulses palpable and symmetric.
 
Pertinent Results:
ADMISSION LABS:
====================
___ 02:28PM BLOOD WBC-7.6 RBC-2.56* Hgb-8.8* Hct-27.2* 
MCV-106* MCH-34.4* MCHC-32.4 RDW-15.9* RDWSD-61.6* Plt ___
___ 02:28PM BLOOD ___ PTT-25.4 ___
___ 02:28PM BLOOD UreaN-33* Creat-2.5*
___ 09:29PM BLOOD Glucose-94 UreaN-36* Creat-2.7* Na-139 
K-4.8 Cl-109* HCO3-19* AnGap-16
___ 09:29PM BLOOD ALT-7 AST-22 AlkPhos-43 TotBili-<0.2
___ 02:28PM BLOOD Lipase-36
___ 09:29PM BLOOD Albumin-2.5* Calcium-8.2* Phos-4.0 Mg-1.6
___ 02:28PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-POS* Barbitr-NEG Tricycl-NEG
___ 02:42PM BLOOD pO2-57* pCO2-36 pH-7.34* calTCO2-20* Base 
XS--5
___ 02:42PM BLOOD Glucose-91 Lactate-1.2 Na-138 K-4.4 
Cl-113* calHCO3-19*
___ 02:42PM BLOOD Hgb-8.9* calcHCT-27 O2 Sat-89 COHgb-0 
MetHgb-0
___ 02:42PM BLOOD freeCa-1.12
___ 11:33PM URINE Color-Yellow Appear-Hazy Sp ___
___ 11:33PM URINE Blood-LG Nitrite-NEG Protein-100 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-LG
___ 11:33PM URINE RBC->182* WBC-93* Bacteri-FEW Yeast-NONE 
Epi-0
___ 11:33PM URINE CastGr-9* CastHy-9*
___ 11:33PM URINE Hours-RANDOM UreaN-320 Creat-51 Na-88

MICROBIOLOGY:
Urine cx (___): negative
Blood cx (___): negative

Sputum studies (___)
GRAM STAIN (___): 
      <10 PMNs and <10 epithelial cells/100X field. 
      NO MICROORGANISMS SEEN. 
      QUALITY OF SPECIMEN CANNOT BE ASSESSED. 
RESPIRATORY CULTURE (___): SPARSE GROWTH Commensal 
Respiratory Flora. 
FUNGAL CULTURE (___): NO FUNGUS ISOLATED. 

Urine cx (___): negative

Legionella Urinary Antigen (___): NEGATIVE FOR LEGIONELLA 
SEROGROUP 1 ANTIGEN.
S. pneumonaie Urinary Antigens (___): Not Detected 

IMAGING: 

Chest portable (___):
1. Hazy opacification of bilateral mid and lower lungs may 
represent layering pleural effusions, underlying consolidation 
not excluded.  Right pectoral Port-A-Cath tip terminates in the 
upper SVC, otherwise standard position of all support devices.  
Appropriate position of all support devices. 

LENIS ___:
IMPRESSION: 
1. No evidence of deep venous thrombosis in the bilateral lower 
extremity 
veins. 
2. Nonvisualization of the left peroneal veins. 
3. 3.1 cm hypoechoic lesion in the left groin likely represents 
a partially thrombosed pseudoaneurysm. 
  
Renal U/S (___):
FINDINGS:  
The right kidney measures 9.8 cm. The left kidney measures 10.2 
cm. There is mild bilateral hydronephrosis, without stones or 
masses.  Normal cortical echogenicity and corticomedullary 
differentiation are seen bilaterally. 
The bladder is collapsed around a Foley catheter, and is 
therefore not fully assessed on the current study. 
IMPRESSION:  
Mild bilateral hydronephrosis, without evidence of 
nephrolithiasis.  No prior studies available for comparison. 

ART DUP EXT LO UNI;F/U LEFT (___):
FINDINGS:  
Grayscale, color, and Doppler images of the left groin in the 
region of 
clinical concern is notable for a heterogeneous, hypoechoic 
region spanning approximately 2.5 x 1.5 cm, without internal 
flow.  On series 1a, image 12, there is suggestion of trace flow 
from the common femoral artery into this suspected 
largely-thrombosed pseudoaneurysm. 
IMPRESSION:  
2.5 x 1.5 cm largely-thrombosed pseudoaneurysm, with equivocal 
small focus of slow flow adjacent to the common femoral artery 

Chest Portable (___):
IMPRESSION: 
1. Significantly improved right mid to lower lung opacification, 
likely 
reflecting improved right pleural effusion. 
2. Decreased retrocardiac opacification and obscuration of left 
hemidiaphragm, most consistent with improved atelectasis. 
3. Improved pulmonary vascular congestion.  No overt pulmonary 
edema. 
4. Stable moderate cardiomegaly. 

CXR PA&LAT (___):
FINDINGS:  
Borderline heart size, improved since prior.  Pulmonary 
vascularity has 
improved.  Pulmonary edema has nearly resolved.  Bibasilar 
opacities have 
nearly resolved.  No pleural effusion.  Right Port-A-Cath in 
place.  Loss of height few thoracic vertebral bodies mid, lower 
thoracic spine. 
IMPRESSION:  
Improved cardiopulmonary findings. 

Renal U/S (___):
FINDINGS:  
The right kidney measures 10.5 cm. The left kidney measures 10.2 
cm. There is mild bilateral hydronephrosis, not significantly 
changed on the right and slightly improved on the left since 
___.  No stones or masses are seen bilaterally.  Normal 
cortical echogenicity and corticomedullary 
differentiation are seen bilaterally. The bladder is moderately 
well distended and normal in appearance. A ureteral stent is 
partially visualized in the bladder. 
IMPRESSION:  
Mild bilateral hydronephrosis not significantly changed on the 
right and and slightly improved on the left since ___. 

CARDIAC STUDIES:
___ ___:  
LA: Normal size  
RA: Mechanically ventilated, cannot assess RA pressure.  
LV: Mild LV inferior hypokinesis. Mild LV global hypokinesis (EF 
40-45%).  
RV: Normal chamber size and free wall motion. Paradoxic septal 
motion c/w conduction abnormality/ventricular pacing.  
Aorta: Normal  
MV: 2+ MR  
TV: 1+ TR. Indeterminate PA systolic pressure.  
PV/PA: Normal leaflets, no PS, physiologic PR  
Pericardium: No effusion  
 
General: Suboptimal image quality - poor windows  
The left atrium is normal in size. Left ventricular wall 
thicknesses are normal. The left ventricular cavity size is 
normal. There is mild regional left ventricular systolic 
dysfunction as shown above. There is mild global left 
ventricular hypokinesis (LVEF = 40-45 %). Right ventricular 
chamber size and free wall motion are normal. There is no aortic 
valve stenosis. Mild to moderate (___) aortic regurgitation is 
seen. The mitral valve leaflets are mildly thickened. Moderate 
(2+) mitral regurgitation is seen. The tricuspid valve leaflets 
are mildly thickened. The pulmonary artery systolic pressure 
could not be determined. There is no pericardial effusion.

OTHER RELEVANT LABS:
==========================
___ 06:20AM BLOOD WBC-4.8 RBC-2.34* Hgb-8.0* Hct-25.0* 
MCV-107* MCH-34.2* MCHC-32.0 RDW-16.4* RDWSD-64.0* Plt ___
___ 06:20AM BLOOD Plt ___
___ 02:28PM BLOOD ___ 06:45AM BLOOD Ret Aut-2.0 Abs Ret-0.05
___ 06:20AM BLOOD Glucose-89 UreaN-46* Creat-4.4* Na-139 
K-5.0 Cl-104 HCO3-18* AnGap-22*
___ 05:23AM BLOOD LD(LDH)-198
___ 06:45AM BLOOD LD(LDH)-200 TotBili-0.3
___ 09:29PM BLOOD ALT-7 AST-22 AlkPhos-43 TotBili-<0.2
___ 05:16AM BLOOD ___
___ 06:20AM BLOOD Calcium-7.3* Phos-5.2* Mg-1.7
___ 09:59AM BLOOD UricAcd-10.0*
___ 06:45AM BLOOD Calcium-8.2* Phos-3.3 Mg-2.6 Iron-43
___ 06:45AM BLOOD calTIBC-195* Hapto-275* Ferritn-1432* 
TRF-150*
___ 06:51AM BLOOD PEP-AWAITING F Fr K/L-PND IgG-2751* 
IgA-5* IgM-6* IFE-PND
___ 05:31AM BLOOD Lactate-0.9
___ 06:36AM BLOOD freeCa-0.98*
___ 01:54PM URINE Color-Red Appear-Cloudy Sp ___
___ 01:54PM URINE Blood-LG Nitrite-NEG Protein-300 
Glucose-NEG Ketone-10 Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-LG
___ 01:54PM URINE RBC->182* WBC->182* Bacteri-MOD 
Yeast-NONE Epi-0
___ 01:54PM URINE AmorphX-MOD
___ 05:56AM URINE Hours-RANDOM Creat-30 TotProt-195 
Prot/Cr-6.5*
___ 05:56AM URINE U-PEP-PND

DISCHARGE LABS:
==========================
___ 06:20AM BLOOD WBC-4.8 RBC-2.34* Hgb-8.0* Hct-25.0* 
MCV-107* MCH-34.2* MCHC-32.0 RDW-16.4* RDWSD-64.0* Plt ___
___ 06:20AM BLOOD Glucose-89 UreaN-46* Creat-4.4* Na-139 
K-5.0 Cl-104 HCO3-18* AnGap-22*
___ 06:20AM BLOOD Calcium-7.3* Phos-5.2* Mg-1.7
 
Brief Hospital Course:
=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
================================================================

ICU COURSE:

# Acute Hypoxemic Respiratory Failure:
Family reported acute onset of symptoms the morning of admission 
(___). There were no clear consolidations on CXR but PNA was 
initially on the differential given immunosuppression from 
myeloma and active chemo (daratumamab associated with ___ 
pneumonia risk), elevated WBC, and improvement with 
broad-spectrum abx. However, the nature of her symptoms were 
attributed to acute decompensated heart failure/flash pulmonary 
edema in the setting of MR given elevated BNP, global 
hypokinesis and 2+ MR on ___ at ___. There was no evidence 
for ACS (ECG with stable LBBB, trops negative x2, no e/o new 
arrhythmia). Patient takes bronchodilators at home, but had no 
evidence of hypercarbia on ABG or increased pressures on vent to 
suggest contribution from obstructive lung disease or airway 
resistance. Patient was initially intubated and sedated. She was 
extubated on ___ AM. She was diuresed with 80 mg IV on ___ 
and was net negative 2.4L. She was also continued on her home 
regimen of Acei/Coreg. She was initially started on vancomycin, 
ceftadizime, and doxycycline that was transitioned to 
ceftazidime and doxycycline.

=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
================================================================

CARDIOLOGY FLOOR COURSE:

# Acute Exacerbation of Chronic Systolic Heart Failure (EF 
40-45%, nonischemic):
Patient has known non-ischemic cardiomyopathy with EF 40-45%, 
though to be secondary to chemotherapy drugs or idiopathic. 
Likely dry weight 62.5 kg (office weight ___. She was 
previously on home diuretics (iso particular chemotherapy 
regimens), but has not been recently. Of note, patient had 
NSTEMI ___, presenting to ___, but cath showed clean 
coronaries (?coronary vasospasm). She presented originally to 
___ with pulmonary edema and possible layering effusions on 
CXR, with BNP 13244 (unknown baseline), and on recheck at ___ 
was ___, concerning for acute exacerbation. ___ at ___ 
with regional and global LV systolic dysfunction and 2+ MR; EF 
and other findings appear stable from prior reports, but MR is 
new. Per ___ note, the patient's primary cardiologist and 
inpatient cardiology teams recommended transfer for further 
cardiology evaluation. Possible precipitants for exacerbation 
include PNA, toxicity from new chemo regimen (C3D1 ___, 
especially 3 days of dexamethasone that was co-administered. 
There was low suspicion for ACS given negative trops x2 and 
recent clean cath, though ECG interpretation is limited by old 
LBBB. Patient diuresed with IV Lasix 80 mg BID (___), 
and achieved euvolemia. She was subsequently transitioned to 
torsemide 40 mg PO QD on ___, but developed worsening ___ on 
CKD as below. Diuresis was held, and following 1L IVF, Cr did 
not improve significantly. At time of discharge, pt appears 
slightly hypervolemic, but given her tenuous renal function, 
held off on additional diuresis or additional fluid repletion. 
Discharge weight is 61.4 kg. Cr 4.4 on ___. Of note, patient's 
telemetry was notable for intermittient atrial tachycardia and 
wandering pacemaker. Her home carvediolol was increased from 
3.125 mg BID to 12.5 BID, with HRs well-controlled in the ___ 
with intermittent spikes above 100. In addition, patient's chart 
review was notable for recent hypotension in the outpatient 
setting and her home Imdur, amlodipine, and lisinopril were held 
and not restarted prior to transfer. SBPs well controlled, and 
ranging from ___.

# ___ on CKD Stage 3
Patient with known CKD Stage 3, secondary to multiple myeloma 
progression. Cr 2.7 on admission, up from 1.6-1.7 (reported at 
___ in ___, although was 2.4 at follow-up office visit in 
___, and was 2.7 on ___. Differential includes 
hypovolemia, although BUN/Cr not c/w pre-renal etiology, 
cardiorenal iso acute CHF exacerbation, and/or worsening of 
known L hydronephrosis (also attributed to MM), although pt is 
s/p L ureteral stent placement on ___. Cr bumped 
4.6<-3.9<-3.1<-2.8 while diuresing as above. UA obtained which 
was dirty w/WBC and RBC and patient empirically treated with IV 
ceftriaxone (___) until urine cx resulted negative 
(concern for bacteruria after recent urological procedure). Ucx 
NGTD. Electrolytes were wnl, but UOP transiently dropped <1L  
per day, w/some c/f worsening hydronephrosis/obstruction. 
Obtained renal U/S ___ which showed that R hydronephrosis is 
unchanged, and L hydronephrosis is slightly improved from prior. 
Considered differential of worsening myeloma nephropathy, light 
chain cast nephropathy, AL amyloidosis, monoclonal 
immunoglobulin deposition disease, glomerulonephritis. C/w 
myeloma progression, most recent labs on ___ at ___ were 
notable for serum IgG (2904) and serum lambda chains (5134) 
rising, w/abdominal CT ___, showing L>R biopsy-proven 
malignant retroperitoneal/internal iliac LAD, w/LN biopsy c/w 
MM. Also some c/f for crystal nephropathy, but urine sediment 
w/RBC 50 per high-powered field (dysmorphic), rare granular 
casts, and no crystals. Additional studies here notable for 
elevated Pr/Cr 6.5 c/w nephrotic range proteinuria, c/f 
glomerulonephritis. SPEP w/elevated IgG; UPEP and free light 
chains are pending. Following 1L IVF and holding off on 
diuresis, Cr improved to 4.2 from 4.6, although patient appears 
slightly hypervolemic. Nephrology was consulted, and agreed with 
the decision to hold off on further diuresis or fluid repletion. 
Nephrotoxic medications were avoided, and other meds were 
renally dosed. Patient's home acyclovir ppx was held and has not 
been restarted. Of note, had multiple  discussions with the 
patient that she may benefit from renal biopsy to evaluate 
nephrotic syndrome, or potentially a Mag study to evaluate for 
worsening obstructive disease, but at this time, patient is 
leaning against these studies. In order to be closer to her 
family, and her outpatient providers (who are based out of 
___, decision was made with patient and primary 
___ team to transfer patient to ___ for 
additional care. Cr on ___ at time of discharge is 4.4. 

# Acute Hypoxemic Respiratory Failure | Pneumonia:
Resolved. Family reports acute onset of symptoms the morning of 
admission. Unclear etiology. PE unlikely given normal RV 
function on ___ at ___ and neg LENIs, but she is at high 
risk due to MM/daratumamab (Wells 1 for malignancy). No e/o ACS 
(ECG with stable LBBB, trops negative x2). Patient takes 
bronchodilators at home, but has no hypercarbia on ABG or 
increased pressures on vent to suggest contribution from 
obstructive lung disease. No clear consolidations on CXR, but 
PNA considered given leukocytosis at ___, immunosuppression 
from myeloma, active chemo (daratumamab associated with ___ 
pneumonia risk), and improvement with broad-spectrum abx, 
although all blood, urine, sputum, Legionella/S.pneumo negative. 
Patient was treated empirically with vanc/ceftaz (___), 
and transitioned to doxycycline (___), for total 5-day 
empiric treatment course for CAP. As below, patient had clear 
e/o decompensated HF, likely volume overload from combination of 
dexamethasone (three day course ___ as part of C3 
chemo, and ___ on CKD iso known hydronephrosis from myeloma). 
Since transition to doxycycline (and with diuresis as below), 
patient was no longer hypoxic, w/significant improvement in 
pulmonary edema on CXR ___. She continues to be satting in 
high-90s on RA w/o SOB at time of discharge.

# Multiple Myeloma:  
Per chart review/oncology notes from ___, ___ has 
stage IIIB IgG Lambda with disease progression despite several 
advanced therapies. Most recently, she was started on C3D1 
(___) daratumumab/velcade with intermittent pomalyst. Her 
course has been complicated by anemia, CKD, lymphadenopathy c/b 
left hydronephrosis s/p L ureteral stent ___, recent admission 
for urosepsis, and cardiomyopathy, most likely related to 
chemotherapy. Port site c/d/i. Patient was initially continued 
on acyclovir 400 mg PO BID for prophylaxis, which was held in 
the setting ___ on CKD as above.  

# Anemia: 
This is chronic, macrocytic and wth baseline Hgb 9.2. Per chart 
review, has been attributed to long-standing myeloma and CKD. 
Hgb during admission ranging from ___. Obtained additional Fe 
studies during hospitalization, c/w anemia of chronic 
inflammation and some BM failure. Haptoglobin, Tbili not 
suggestive of hemolysis. Stool guaiac neg.

# Hypocalcemia: 
Patient with low free Ca 0.98, likely secondary to longstanding 
CKD. Treated her with IV calcium gluconate 2g on ___, and 
continued on Ca carbonate PO 1000 mg daily along with vitamin D 
1000 IU daily.

# Diarrhea: 
Pt endorses having hx of intermittent diarrhea for the last 
several years, which she self-treats with loperamide, and which 
has never been worked up. Has had loose stools since ___ w/o 
BRBPR and stools are not dark or foul-smelling. Patient is 
afebrile and w/o nausea, vomiting, or abdominal pain. No 
elevated WBC, but patient has marrow comprise ___ multiple 
myeloma. C. diff negative. Patient's magnesium was repleted IV 
versus orally, to avoid precipitating additional diarrhea. 
Diarrhea should be further evaluated in outpatient setting.

# Pseudoaneurysm  
LENIs were obtained as part of DVT r/o. While there was no e/o 
___ DVT, imaging was notable for L femoral artery pseudoaneurysm 
2.5x1.5cm, partially thrombosed, w/small focus of slow flow 
adjacent to common femoral. Most likely explanation is that this 
is a complication of recent cardiac cath at ___ (___) w/L 
groin approach. On exam, patient is warm and well-perfused, 
___ pulses intact, no e/o unilateral swelling, and therefore 
no c/f acute limb ischemia. Vascular and ___ teams were 
consulted, and given that no indication for coiling, given that 
pseudoaneurysm is already near completely thrombosed, there is 
no indication for coiling. Vascular recommended repeat 
ultrasound in 1 month and follow up in Vascular Surgery.

# Encephalopathy
Patient was noted to be disoriented upon admission at 
___. This was in the setting of hypoxia and 
respiratory distress. ___ at ___ was limited by motion, 
but was negative for acute intracranial process. As sedation was 
weaned, and patient's oxygenation improved with sats in the high 
___ on RA, patient's orientation improved to baseline.

# Hypothyroidism: Patient was continued on home levothyroxine 
100 mcg daily.

# Hyperlipidemia: Patient was continued on home atorvastatin 
80mg daily.

DISCHARGE WEIGHT: 61.4 kg
DISCHARGE CREATININE: 4.4

CODE: FULL
Communication: husband (___) ___, daughter 
(___) ___, cell

TRANSITIONAL ISSUES:
- At time of transfer, serum free light chains and UPEP are 
pending.
- At time of transfer, patient, although slightly hypervolemic, 
is not on diuretic regimen in the setting of persistent ___ on 
CKD. Please evaluate volume status and renal function, and 
consider re-initiating gentle diuresis.
- Patient's carvedilol 3.125 mg BID was increased to 12.5mg BID 
in the setting of intermittent atrial tachycardia/wandering 
pacemaker. Her HRs are well-controlled (in the ___ on this 
regimen. 
- Patient's acyclovir 400 mg BID was held in the setting of her 
___ on CKD, and was not started at time of transfer. Please 
restart pending improvement in renal function.
- Patient's chronic diarrhea should be further evaluated in 
outpatient setting. 
- Patient will need repeat ultrasound in 1 month for left common 
femoral artery pseudoaneurysm and follow up with Vascular 
Surgery.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO BID 
2. amLODIPine 10 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Atorvastatin 80 mg PO QPM 
5. Carvedilol 3.125 mg PO BID 
6. Cyanocobalamin 50 mcg PO DAILY 
7. Dexamethasone 10 mg PO DAILY 
8. FoLIC Acid 1 mg PO DAILY 
9. HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO Frequency is 
Unknown 
10. Isosorbide Mononitrate (Extended Release) 60 mg PO BID 
11. Levothyroxine Sodium 100 mcg PO DAILY 
12. Lisinopril 2.5 mg PO DAILY 
13. Omeprazole 20 mg PO DAILY 
14. Pomalyst (pomalidomide) 3 mg oral UNKNOWN' 
___. TraZODone 50 mg PO QHS:PRN insomnia 
16. Magnesium Oxide 400-800 mg PO DAILY 

 
Discharge Medications:
1.  Calcium Carbonate 1000 mg PO DAILY  
2.  Vitamin D 1000 UNIT PO DAILY  
3.  Carvedilol 12.5 mg PO BID  
4.  Aspirin 81 mg PO DAILY  
5.  Atorvastatin 80 mg PO QPM  
6.  Cyanocobalamin 50 mcg PO DAILY  
7.  FoLIC Acid 1 mg PO DAILY  
8.  Levothyroxine Sodium 100 mcg PO DAILY  
9.  Omeprazole 20 mg PO BID  
10.  TraZODone ___ mg PO QHS:PRN insomnia  
11. HELD- Acyclovir 400 mg PO BID  This medication was held. Do 
not restart Acyclovir until there is improvement in kidney 
function. 
12. HELD- Dexamethasone 10 mg PO DAILY  This medication was 
held. Do not restart Dexamethasone until you are instructed by 
your oncologist.
13. HELD- Pomalyst (pomalidomide) 3 mg oral DAILY Duration: 3 
Weeks  This medication was held. Do not restart Pomalyst until 
you are instructed by your oncologist.

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
PRIMARY: Acute Hypoxic Respiratory Failure, Acute on Chronic 
Systolic Heart Failure, Acute Kidney Injury
SECONDARY: Multiple Myeloma, Chronic Kidney Disease, 
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ after having difficulty breathing at 
home, for which you needed to be placed temporarily on a 
breathing machine. We think this was caused by acute heart 
failure, a condition where the heart does not pump very well, 
leading to fluid build up in the lungs. We gave you medications 
to remove extra fluid, which improved your breathing.

However, while you were here, you developed worsening kidney 
function. We performed tests and consulted our kidney 
specialists. Ultimately, we think the most likely cause of the 
kidney dysfunction is your multiple myeloma. Other causes are 
possible, and our kidney specialists would recommend obtaining a 
kidney biopsy to diagnose the problem.

After discussing with you and your outpatient doctors, we 
decided that it would be best to continue your care at ___ 
___, where many of your regular doctors are, 
including your oncologist. They will be able to better guide the 
direction of your care and continue chemotherapy if needed.

It was a pleasure to take care of you. We wish you the best!

Your ___ Care Team
 
Followup Instructions:
___